US09162953B2
Following General Procedure A (90° C., 30 hours), 1,1-diphenyl-methanimine (272 mg, 1.5 mmol) is coupled with iodo-benzene (112 μL, 1.0 mmol) to give 94% N-(diphenylmethylene)aniline.

reactant | 1,1-diphenyl-methanimine | 1.5 mmol, 272 mg | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
reactant | iodo-benzene | 1.0 mmol, 112 μL | IC1=CC=CC=C1 | C6H5I
product | N-(diphenylmethylene)aniline | 94% | C1(=CC=CC=C1)C(=NC1=CC=CC=C1)C1=CC=CC=C1 | C19H15N
